* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch.asc
* Generated by LTspice 24.1.4 for Windows.
M4 N004 N009 N003 N003 Si4427DY
M5 N002 N009 N003 N003 Si4427DY
R7 0 N004 3000
V5 N001 0 17
M6 N012 N014 0 0 Si7336ADP
V7 N015 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
R10 N015 N014 220
R11 N015 0 10000
C3 N015 0 10p
R22 N002 N001 1
D2 N012 N010 BZX84C8V2L
R8 N009 N010 220
R23 N003 N010 10000
C8 N012 0 10n
R9 N003 N009 10000
C2 N003 N009 10n
M7 N008 N011 N007 N007 Si4427DY
M8 N006 N011 N007 N007 Si4427DY
R6 0 N008 3000
V8 N005 0 17
M9 N013 N016 0 0 Si7336ADP
V9 N017 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
R12 N017 N016 220
R13 N017 0 10000
C4 N016 0 10p
R16 N007 N011 10000
R18 N011 N013 10000
D3 N011 N007 BZX84C8V2L
R14 N006 N005 1
C1 N007 N011 10p
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
* THIS NEW GATE DRIVER SETUP WORKS - MAY 5
* THIS NEW GATE DRIVER SETUP WORKS - MAY 5
.option noopiter
.tran 600m
.backanno
.end
