* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch.asc
* Generated by LTspice 24.1.4 for Windows.
M7 LOAD N010 N003 N003 Si4427DY
M8 N002 N010 N003 N003 Si4427DY
R6 0 LOAD 3000
V8 N001 0 17
M9 N013 N016 0 0 Si7336ADP
V9 N017 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
R12 N017 N016 220
R13 N017 0 10000
C4 N016 0 10p
R16 N003 N010 10000
R18 N010 N013 10000
D3 N010 N003 BZX84C8V2L
R14 N002 N001 1
C1 N003 N010 10p
M1 LOAD N011 N006 N006 Si4427DY
M2 N005 N011 N006 N006 Si4427DY
V1 N004 0 11
M3 N014 N018 0 0 Si7336ADP
R2 N019 N018 220
R3 N019 0 10000
C2 N018 0 10p
R4 N006 N011 10000
R5 N011 N014 10000
D1 N011 N006 BZX84C8V2L
R7 N005 N004 1
C3 N006 N011 10p
M4 LOAD N012 N009 N009 Si4427DY
M5 N008 N012 N009 N009 Si4427DY
V2 N007 0 20
M6 N015 N020 0 0 Si7336ADP
R1 N021 N020 220
R8 N021 0 10000
C5 N020 0 10p
R9 N009 N012 10000
R10 N012 N015 10000
D2 N012 N009 BZX84C8V2L
R11 N008 N007 1
C6 N009 N012 10p
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.tran 600ms
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.backanno
.end
