* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch.asc
* Generated by LTspice 24.1.4 for Windows.
M7 LOAD2 N006 N003 N003 Si4427DY
M8 N002 N006 N003 N003 Si4427DY
R6 0 LOAD2 3000
V8 N001 0 17
M9 N008 N009 0 0 Si7336ADP
R12 N010 N009 220
R13 N010 0 10000
C4 N009 0 10p
R16 N003 N006 10000
R18 N006 N008 1000
D3 N006 N003 BZX84C8V2L
R14 N002 N001 1
C1 N003 N006 10p
R1 0 LOAD 3000
V1 N004 0 40
M3 N011 N012 0 0 BSC047N08NS3
V2 N013 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
R2 N013 N012 220
R3 N013 0 10000
C2 N012 0 10p
R4 N005 N007 10000
R5 N007 N011 6200
C3 N005 N007 10p
D1 N007 N005 EDZV22B
V3 N017 0 16.8
M5 N022 N025 0 0 BSC047N08NS3
R9 N026 N025 220
R10 N026 0 10000
C5 N025 0 10p
R11 N018 N020 10000
R15 N020 N022 910
C6 N018 N020 10p
M6 LOAD N020 N018 N018 Si7469DP
D2 N020 N018 EDZV15B
M4 N017 N020 N018 N018 Si7469DP
M1 LOAD N007 N005 N005 Si7469DP
M2 N004 N007 N005 N005 Si7469DP
V4 N026 0 PULSE(0 10 420m 1u 1u 20m 160m 1)
M10 LOAD2 N019 N016 N016 Si4427DY
M11 N015 N019 N016 N016 Si4427DY
V5 N014 0 17
M12 N021 N023 0 0 Si7336ADP
R17 N024 N023 220
R19 N024 0 10000
C7 N023 0 10p
R20 N016 N019 10000
R21 N019 N021 1000
D4 N019 N016 BZX84C8V2L
R22 N015 N014 1
C8 N016 N019 10p
V6 N010 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
C9 LOAD N020 10n
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.tran 600ms
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
* May not need this zener diode bc it is consuming an extra 0.8mA when turned on but it might be good to have somethng clamping this to 15V
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.backanno
.end
